US08030498B2
Preparation of 5-(ethylthio)carbonyloxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone (Compound No. 16 as Described Hereinafter)
The crude 5-hydroxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone obtained in the above step (1) was dissolved in anhydrous THF (10 mL), and triethylamine (139 mg) and 96% S-ethyl chlorothiolformate (111 mg) were added, followed by stirring for 1 hour at room temperature. Ethyl acetate (200 mL) was added to the obtained reaction mixture, and the mixture was washed twice with a saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to obtain the desired product (170 mg).

reactant | 5-hydroxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | COCCOC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)CC)C | C17H22N2O6S
reactant | triethylamine | 139 mg | C(C)N(CC)CC | C6H15N
reactant | S-ethyl chlorothiolformate | 111 mg | CCSC(=O)Cl | C3H5ClOS
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(ethylthio)carbonyloxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | 170 mg | COCCOC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1OC(=O)SCC)CC)C | C20H26N2O7S2
